US07718663B2
N-(4-{[(1S,2R)-2-({(tert-butoxycarbonyl)amino[(tert-butoxycarbonyl)imino]methyl}amino)cyclohexyl]amino}-6-methylquinazolin-2-yl)-1-benzothiophene-2-carboxamide dihydrochloride
To a 604 mg of N,N-diisopropylethylamine in 4 ml of methylene chloride, 10 mg of 4-dimethylaminopyridine and 613 mg of benzo[b]thiophene-2-carbonylchloride were added, and the mixture was stirred for 60 minutes. To the mixture was added dropwise a solution of 800 mg of N-{(1R,2S)-2-[(2-amino-6-methylquinazolin-4-yl)amino]cyclohexyl}-N′,N″-bis(tert-butoxycarbonyl)guanidine obtained in Reference Example 1 in 5 ml of methylene chloride, followed by stirring at room temperature for 15 hours. The reaction solution was mixed with water, extracted with methylene chloride and then dried. The solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform:methanol=30:1) to obtain 890 mg of the desirable compound.

reactant | N,N-diisopropylethylamine | 604 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzo[b]thiophene-2-carbonylchloride | 613 mg | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
reactant | N-{(1R,2S)-2-[(2-amino-6-methylquinazolin-4-yl)amino]cyclohexyl}-N′,N″-bis(tert-butoxycarbonyl)guanidine | 800 mg | NC1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C | C26H39N7O4
reactant | water | O | H2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(4-{[(1S,2R)-2-({(tert-butoxycarbonyl)amino[(tert-butoxycarbonyl)imino]methyl}amino)cyclohexyl]amino}-6-methylquinazolin-2-yl)-1-benzothiophene-2-carboxamide dihydrochloride | 890 mg | Cl.Cl.C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)NC(=O)C=1SC2=C(C1)C=CC=C2 | InChI=1S/C35H43N7O5S.2ClH/c1-20-16-17-23-22(18-20)28(39-30(37-23)40-29(43)27-19-21-12-8-11-15-26(21)48-27)36-24-13-9-10-14-25(24)38-31(41-32(44)46-34(2,3)4)42-33(45)47-35(5,6)7;;/h8,11-12,15-19,24-25H,9-10,13-14H2,1-7H3,(H2,36,37,39,40,43)(H2,38,41,42,44,45);2*1H/t24-,25+;;/m0../s1
